US07375222B2
A 316 mg portion of the 6-chloro-N-(4-fluorophenyl)-N′-phenyl-1,3,5-triazine-2,4-diamine was dissolved in 10.0 ml of acetonitrile, and 0.523 ml of diisopropylethylamine and 0.170 ml of isopropylamine were added thereto and stirred overnight at 80° C. The reaction solution was cooled down to room temperature, and then mixed with water and extracted with ethyl acetate. The organic layer was washed with 5% citric acid aqueous solution and saturated brine and then dried using anhydrous magnesium sulfate. The solvent was evaporated under a reduced pressure, and the thus obtained residue was applied to a silica gel column chromatography and eluted with ethyl acetate:n-hexane (2:1) to obtain a crude product. This crude product was dissolved in ethyl acetate and mixed with 4 M hydrochloric acid ethyl acetate solution, the solvent was evaporated under a reduced pressure, and the thus obtained residue was crystallized from ethyl acetate, thereby obtaining 327 mg of N-(4-fluorophenyl)-N′-isopropyl-N″-phenyl-1,3,5-triazine-2,4,6-triamine hydrochloride as colorless crystals.

reactant | 6-chloro-N-(4-fluorophenyl)-N′-phenyl-1,3,5-triazine-2,4-diamine | ClC1=NC(=NC(=N1)NC1=CC=C(C=C1)F)NC1=CC=CC=C1 | C15H11ClFN5
reactant | diisopropylethylamine | 0.523 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isopropylamine | 0.170 ml | C(C)(C)N | C3H9N
reactant | hydrochloric acid ethyl acetate | 4 M | C(C)OC(C)=O.Cl
solvent | acetonitrile | 10.0 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-(4-fluorophenyl)-N′-isopropyl-N″-phenyl-1,3,5-triazine-2,4,6-triamine hydrochloride | 327 mg | Cl.FC1=CC=C(C=C1)NC1=NC(=NC(=N1)NC(C)C)NC1=CC=CC=C1 | InChI=1S/C18H19FN6.ClH/c1-12(2)20-16-23-17(21-14-6-4-3-5-7-14)25-18(24-16)22-15-10-8-13(19)9-11-15;/h3-12H,1-2H3,(H3,20,21,22,23,24,25);1H
